US05162318
To a solution of N-(2-nitrophenyl-N',N'-dimethylethylenediamine (1.20 g) in chloroform (25 ml) was added ethyl chloroformate (0.64 g) dropwise. The reaction mixture was stirred at room temperature for 5 hours, washed with 1N aqueous sodium hydroxide solution and saturated aqueous sodium chloride solution in turn and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent:chloroform:methanol=10:1) to give 1.10 g of N-(2-nitrophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine.

reactant | 2-nitrophenyl-N',N'-dimethylethylenediamine | 1.20 g | [N+](=O)([O-])C1=C(C=CC=C1)NCCN(C)C | C10H15N3O2
reactant | ethyl chloroformate | 0.64 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-nitrophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine | 1.10 g | [N+](=O)([O-])C1=C(C=CC=C1)N(CCN(C)C)C(=O)OCC | C13H19N3O4
